US06765008B1
[-2,5,6-Trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]- propan-1-one oxime
A mixture of 1-[-2,5,6-trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-propan-1-one (0.598 g, 1.783 mmol), hydroxylamino hydrochloride (0.370 g, 5.35 mmol), sodium acetate (0.439 g, 5.35 mmol) in MeOH (30 ml) was stirred at room temperature for 24 hours. The mixture was concentrated to dryness. The residue was diluted with water and extracted with ethyl acetate. The organic layer was dried and concentrated to give 0.657 g of a white glassy foam. The glassy foam was purified through silica gel column chromatography to separated both E (white crystals, mp 162-164° C., confirmed by X-ray structural analysis) and Z (white crystals, mp 84-87° C.) isomers and a mixture of E and Z isomers (mp −150-190° C.).

reactant | 1-[-2,5,6-trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-propan-1-one | 1.783 mmol, 0.598 g | CC=1N=C(C2=C(N1)N(C(=C2C)C)C2=C(C=C(C=C2C)C)C)C(CC)=O | C21H25N3O
reactant | hydroxylamino hydrochloride | 5.35 mmol, 0.370 g | ONCl | ClH2NO
reactant | sodium acetate | 5.35 mmol, 0.439 g | C(C)(=O)[O-].[Na+]
solvent | MeOH | 30 ml | CO | CH4O
product | [-2,5,6-Trimethyl-7-(2,4,6-trimethylphenyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]- propan-1-one oxime | 0.657 g | CC=1N=C(C2=C(N1)N(C(=C2C)C)C2=C(C=C(C=C2C)C)C)C(CC)=NO | C21H26N4O
